US07407961B2
t-BuOK (32.2 g) was added to the suspension of 5-bromo-2(1H)-pyridone (50 g) in DME (500 ml). The mixture was stirred for 30 minutes. To the mixture was added K2CO3 (27.8 g) and 2-iodopropane (81.6 g). The reaction mixture was refluxed with stirring for 3 hours. The above mixture was cooled to 20-25° C. The precipitated salt was removed by filtration and washed with DME (100 ml). Evaporation of solvent in vacuo gave solidly residue. The residue was dissolved in CHCl3 (150 ml). The solution was washed with 0.1N HCl and brine, and dried over MgSO4. Evaporation of solvent in vacuo gave solidly residue. To the residue was added n-hexane (150 ml) to pulverize the residue. The precipitate was collected by filtration and dried in vacuo to give 5-bromo-1-isopropyl-2(1H)-pyridone (41.2 g).

reactant | t-BuOK | 32.2 g | CC(C)(C)[O-].[K+]
reactant | 5-bromo-2(1H)-pyridone | 50 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | K2CO3 | 27.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodopropane | 81.6 g | IC(C)C | C3H7I
solvent | DME | 500 ml | COCCOC | C4H10O2
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | n-hexane | 150 ml | CCCCCC | C6H14
product | 5-bromo-1-isopropyl-2(1H)-pyridone | 41.2 g | BrC=1C=CC(N(C1)C(C)C)=O | C8H10BrNO
